US09193744B2
(3S,4aS,12bS)-12b-Ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (11, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.125 g, 0.280 mmol) in N,N-dimethylacetamide (3 mL) was stirred and treated with sulfamoyl chloride (0.105 g, 0.91 mmol). After about 3 h sulfamoyl chloride (0.080 g, 0.69 mmol) was added and the mixture was stirred for about 14 h at rt. The reaction mixture was purified without manipulation in one portion by preparative reverse phase HPLC using a Hypersil HS C18 column (250 mm×21.2 mm, 8 um particle size) with a gradient of 25-100% MeCN in 0.05 N aq. ammonium acetate pH 4.5 buffer. Product fractions were concentrated under reduced pressure then diluted with water (15 mL). The solids were collected by filtration then washed with water (5 mL) and dried to yield (3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-yl sulfamate (109 mg, 74%); LC/MS, method 2, Rt=2.86 min, MS m/z 526 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.26 (d, J=0.8 Hz, 1H), 8.02 (s, 2H), 7.86 (s, 1H), 7.81-7.78 (m, 2H), 7.57 (s, 1H), 7.45-7.37 (m, 2H), 3.23-3.18 (m, 2H), 2.98-2.92 (m, 1H), 2.45-2.18 (m, 4H), 2.16-1.95 (m, 3H), 1.94-1.61 (m, 4H), 1.42-1.27 (m, 1H), 0.43 (t, J=7.3 Hz, 3H).

reactant | (3S,4aS,12bS)-12b-Ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol | C(C)[C@]12[C@@H](CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C[C@](CC2)(O)C(F)(F)F | C25H26F4N2O
reactant | sulfamoyl chloride | 0.91 mmol, 0.105 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | sulfamoyl chloride | 0.69 mmol, 0.080 g | S(N)(=O)(=O)Cl | ClH2NO2S
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
product | (3S,4aS,12bS)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-yl sulfamate | 109 mg, 74% | S(N)(O[C@]1(CC[C@]2([C@@H](CCCC=3C2=CC=2C=NN(C2C3)C3=CC=C(C=C3)F)C1)CC)C(F)(F)F)(=O)=O | C25H27F4N3O3S
